US06518315B1
Preparation of 2-(3,4-dimethoxyphenyl)ethanol
To a solution of 3,4-dimethoxyphenylacetic acid (2 g) in anhydrous THF (40 ml) at 0° C. under N2 was added dropwise borane-methyl sulfide complex (10 M, 1.5 ml). The mixture was stirred at room temperature for further 4 hrs. Cold water (5 ml) was added to destroy any excess of borane followed by the addition of H2SO4 (1 M, 50 ml). The mixture was extracted three time with ethyl acetate (50 ml). The organic layer was separated and evaporated off to give a colourless liquid which was then purified by column chromatography to afford a colourless solid in quantitative yield.

reactant | 3,4-dimethoxyphenylacetic acid | 2 g | COC=1C=C(C=CC1OC)CC(=O)O | C10H12O4
reactant | water | 5 ml | O | H2O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 2-(3,4-dimethoxyphenyl)ethanol | quantitative yield | COC=1C=C(C=CC1OC)CCO | C10H14O3
